US06057337
N-(3-Morpholinopropyl)-{2-[1-(N-octadecylcarbamoyl)-2-piperidyl]ethoxy}formamide hydrochloride (Compound 4)
4N Hydrochloric acid/ethyl acetate solution (0.13 ml) was added to a solution of N-(3-morpholinopropyl)-{2-[1-(N-octadecylcarbamoyl)-2-piperidyl]ethoxy}formamide (0.200 g) in ethyl acetate (2 ml). After being stirred for 15 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with ethyl acetate, thereby yielding the entitled compound (0.170 g) as white crystals.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.13 ml | Cl.C(C)(=O)OCC
reactant | N-(3-morpholinopropyl)-{2-[1-(N-octadecylcarbamoyl)-2-piperidyl]ethoxy}formamide | 0.200 g | O1CCN(CC1)CCCN(C=O)OCCC1N(CCCC1)C(NCCCCCCCCCCCCCCCCCC)=O | C34H66N4O4
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-Morpholinopropyl)-{2-[1-(N-octadecylcarbamoyl)-2-piperidyl]ethoxy}formamide hydrochloride | 0.170 g | Cl.O1CCN(CC1)CCCN(C=O)OCCC1N(CCCC1)C(NCCCCCCCCCCCCCCCCCC)=O | InChI=1S/C34H66N4O4.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-18-23-35-34(40)38-26-19-17-21-33(38)22-29-42-37(32-39)25-20-24-36-27-30-41-31-28-36;/h32-33H,2-31H2,1H3,(H,35,40);1H
